US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[(E)-4-chloro-2-butenyl]-2-(3,4-dimethylbenzyl)piperazine (450 mg), 3,3-dimethylmorpholine hydrochloride (130 mg) and powdered potassium carbonate (350 mg) in dry acetonitrile (5 ml) was heated at reflux temperature for 3 hours. Additional potassium carbonate (350 mg) and 3,3-dimethylmorpholine hydrochloride (130 mg) were added and then the resulting mixture was further heated at reflux temperature. After 6 hours, the reaction mixture was cooled and then filtered. The filtrate was concentrated under reduced pressure and the resulting residue was purified by column chromatography on silica gel using a mixture of dichloromethane and methanol (50:1). The obtained product was dissolved in ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[(E)-4-(3,3-dimethylmorpholino)-2-butenyl]piperazine dihydrochloride (370 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[(E)-4-chloro-2-butenyl]-2-(3,4-dimethylbenzyl)piperazine | 450 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C\C=C\CCl)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C26H27ClF6N2O
reactant | 3,3-dimethylmorpholine hydrochloride | 130 mg | Cl.CC1(NCCOC1)C
reactant | potassium carbonate | 350 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 350 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,3-dimethylmorpholine hydrochloride | 130 mg | Cl.CC1(NCCOC1)C
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[(E)-4-(3,3-dimethylmorpholino)-2-butenyl]piperazine dihydrochloride | 370 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C\C=C\CN2C(COCC2)(C)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C32H39F6N3O2.2ClH/c1-22-7-8-24(15-23(22)2)16-28-20-39(9-5-6-10-40-13-14-43-21-30(40,3)4)11-12-41(28)29(42)25-17-26(31(33,34)35)19-27(18-25)32(36,37)38;;/h5-8,15,17-19,28H,9-14,16,20-21H2,1-4H3;2*1H/b6-5+;;/t28-;;/m1../s1
